US08859774B2
To HCl 2M in ether (2809 μl, 5.62 mmol) was added (R)-tert-butyl 1-(4-fluorophenyl)-4a-(thiazole-4-carbonyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate (135 mg, 0.281 mmol) as a solution in ether (1 mL). The resulting suspension was stirred at room temperature for 1 h. The solvent was removed to give a white solid. This was dissolved in dichloromethane (1.4 mL) and Hunig's base (245 μl, 1.405 mmol), and 3,4-dichlorobenzene-1-sulfonyl chloride (76 mg, 0.309 mmol) was added to the solution. The resulting solution was stirred at room temperature for 18 h. The crude product was purified by chromatography on silica gel (gradient: 5-95% ethyl acetate in isohexane to afford (R)-(6-((3,4-dichlorophenyl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(thiazol-4-yl)methanone (111 mg) as a pale yellow solid. LCMS (Method F, ES-API): RT 2.76 min, m+H=588.8; 1H NMR (400 MHz, CDCl3): δ 8.85 (1H, d, J=2.2 Hz), 8.22 (1H, d, J=2.2 Hz), 7.77 (1H, t, J=1.2 Hz), 7.52 (2H, d, J=1.2 Hz), 7.45-7.40 (2H, m), 7.28 (1H, s), 7.20-7.13 (2H, m), 6.52 (1H, d, J=2.2 Hz), 5.44 (1H, dd, J=12.6, 2.2 Hz), 4.13 (1H, d, J=16.8 Hz), 3.90-3.87 (1H, m), 2.92-2.81 (2H, m), 2.78 (1H, d, J=12.6 Hz), 2.62-2.50 (2H, m).

reactant | HCl | 2M | Cl | ClH
reactant | (R)-tert-butyl 1-(4-fluorophenyl)-4a-(thiazole-4-carbonyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate | 0.281 mmol, 135 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C=2N=CSC2)C(=O)OC(C)(C)C | C25H25FN4O3S
reactant | Hunig's base | 1.405 mmol, 245 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 3,4-dichlorobenzene-1-sulfonyl chloride | 0.309 mmol, 76 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | ether | 1 mL | CCOCC | C4H10O
solvent | dichloromethane | 1.4 mL | ClCCl | CH2Cl2
solvent | ether | 5.62 mmol, 2809 μl | CCOCC | C4H10O
product | (R)-(6-((3,4-dichlorophenyl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(thiazol-4-yl)methanone | 111 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C[C@]2(CC3=C(C=C2CC1)N(N=C3)C3=CC=C(C=C3)F)C(=O)C=3N=CSC3 | C26H19Cl2FN4O3S2
